Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / atenolol
 
Attending: ___.
 
Chief Complaint:
flank pain, bloody urine
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of
hypothyroidism, hyperlipidemia, osteoporosis who presents with
gross hematuria and right flank pain. 

The patient was in her usual state of health when she developed
gross hematuria on ___ with an increase in urinary frequency.
She has a history of urinary tract infections in the past with
similar symptoms of hematuria and urinary frequency. She did not
have fever or chills, back or flank pain initially. She started
taking nitrofurantoin on ___ in the ___. She presented to her 
PCP
office on ___ for evaluation as she is leaving for ___ on
___ and wants this issue to be cleared up before she 
leaves.
She continued to take Macrobid and the blood in the urine had
improved. She was advised to continue Macrobid. Later in the day
on ___, she developed right sided flank pain with nausea and
urinary hesitation but without fevers. The right lower back pain
was severe and intermittent, radiating to the groin. She called
the ___ office and was told to present to the ED. She has been
feeling a little 'foggy' in her thinking over the twelve hours
before she presented to the ED.

In the ED, initial vitals:  
T 97.4 HR 95 BP 140/75 RR 16 SaO2 100% RA

- Exam notable for:  
Confused, AOx2, RLQ tenderness, R CVAT

- Labs notable for:  
Na 142 K 4 Cl 104 HCO3 25 BUN 20 Cr 0.7 Gluc 119
Trop Neg
ALT 11 AST 16 AP 21 Bili 0.2 Lip 43 Alb 4.3
INR 1 PTT 26.6
CBC: 6.8>13.1/41<169
Negative serum tox
Urine: mod ___, Lg bld, Neg nitr, 100 prot, 151 WBC, RBC >182, 
few
bact
Urine tox: pos barb, neg otherwise
Lactate 3.4->0.7 after 1L IVF

- Imaging notable for:  
CT head: No acute intracranial process.
CT abd/pelvis without contrast: No acute intra-abdominal or
intrapelvic pathology. No evidence of nephrolithiasis.
CXR: There is no focal consolidation, effusion, or pneumothorax.
The
cardiomediastinal silhouette is normal. A chronic fracture
deformity of the
left mid clavicle is noted. No acute osseous abnormality is 
seen.

- Pt given: 
___ 00:33IVKetorolac 15 mg
___ 02:36IVFLR 1000 mL
___ 02:36IVCefTRIAXone

- Vitals prior to transfer:  
HR 76 BP 130/86 RR 18 SaO2 95% RA

Upon arrival to the floor, the patient reports she is feeling
improved. Her thinking is more clear, particularly compared to
when she first came in. She is still having pain in the right
lower back and ongoing discomfort with urination. she is having
no fevers or chills.   

REVIEW OF SYSTEMS:  
A 10-point ROS was taken and is negative except otherwise stated
in the HPI. 

 
Past Medical History:
Squamous cell skin cancer
Thyroid nodule
Hypothyroidism
Colonic adenoma
Osteoporosis
Migraine headache
Osteoarthritis
Hyperlipidemia
Renal cyst
Liver cyst
 
Social History:
___
Family History:
Father: stroke age ___
Mother: memory loss in her ___, died at age ___
Maternal grandmother: ovarian cancer
Nephew: colon cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS:  
T 98.4 BP 131/75 HR 77 RR 17 SaO2 96% Ra
General: Alert, oriented, no acute distress, lying flat in bed  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: Mild tenderness to palpation below the right flank
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.  

DISCHARGE PHYSICAL EXAM:  
VITALS:  
24 HR Data (last updated ___ @ 1222)
    Temp: 98.5 (Tm 98.8), BP: 136/67 (90-141/46-77), HR: 64 
(58-76), RR: 17 (___), O2 sat: 96% (94-97), O2 delivery: Ra  
General: Alert, oriented, no acute distress, lying flat in bed  
HEENT: Sclerae anicteric, MMM, oropharynx clear
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: no flank tenderness, no costovertebral tenderness
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: grossly intact 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 12:17AM BLOOD WBC-6.8 RBC-4.26 Hgb-13.1 Hct-41.0 MCV-96 
MCH-30.8 MCHC-32.0 RDW-12.6 RDWSD-44.6 Plt ___
___ 12:17AM BLOOD Neuts-55.8 ___ Monos-13.2* 
Eos-3.0 Baso-0.6 Im ___ AbsNeut-3.77 AbsLymp-1.83 
AbsMono-0.89* AbsEos-0.20 AbsBaso-0.04
___ 12:17AM BLOOD Glucose-119* UreaN-20 Creat-0.7 Na-142 
K-4.0 Cl-104 HCO3-25 AnGap-13
___ 12:17AM BLOOD ALT-11 AST-16 AlkPhos-21* TotBili-0.2
___ 09:20AM BLOOD Calcium-9.7 Phos-4.1 Mg-1.9
___ 12:17AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:03AM BLOOD Lactate-3.4*

DISCHARGE LABS:
===============

___ 06:09AM BLOOD WBC-6.9 RBC-3.70* Hgb-11.4 Hct-36.0 
MCV-97 MCH-30.8 MCHC-31.7* RDW-12.8 RDWSD-45.6 Plt ___
___ 06:09AM BLOOD Glucose-102* UreaN-11 Creat-0.9 Na-146 
K-4.1 Cl-110* HCO3-28 AnGap-8*
___ 06:09AM BLOOD Calcium-8.9 Phos-3.9 Mg-1.8
___ 04:33AM BLOOD Lactate-0.7

RELEVANT IMAGING:
=================
___ CXR
FINDINGS:  
  
PA and lateral views of the chest provided. 
  
There is no focal consolidation, effusion, or pneumothorax. The 
cardiomediastinal silhouette is normal.  Rightward deviation of 
the trachea above the thoracic inlet is usually due to 
enlargement of the left lobe of the thyroid.  Clinical 
consideration should be given to medical abnormalities involving 
the thyroid. 
  
A chronic fracture deformity of the left mid clavicle is noted.  
No acute 
osseous abnormality is seen. 
  
IMPRESSION:  
  
No acute intrathoracic process. 
  
Possible left thyroid mass with a without medical abnormality 
involving 
thyroid function. 

___ CT head w/o contrast
 
There is no evidence of acute territorial infarction, 
hemorrhage, edema, or mass effect.  The ventricles and sulci are 
mildly prominent in keeping with age-related involutional 
change. 
  
No acute fractures are seen.  The paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear. The orbits are 
unremarkable. 
  
IMPRESSION:  
  
No acute intracranial process. 

___ CT ABD & PELVIS W/O CON
LOWER CHEST: Aside from mild bibasilar dependent atelectasis, 
the visualized 
lung fields are within normal limits.  There is no evidence of 
pleural or 
pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogeneous attenuation 
throughout.  A  subcentimeter hypodensity in the anterior right 
hepatic lobe is incompletely  characterized on the current study 
may represent a hepatic cyst or biliary hamartoma.  There is no 
evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan.  There is no pancreatic ductal dilatation.  
There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence of focal renal lesions within the limitations of an 
unenhanced scan.  There is a simple appearing cortical cyst 
measuring 1.4 cm in the left lower pole.  An additional cyst 
measures 4.4 x 3.6 x 3.8 cm in the left upper pole and is 
peripherally calcified (02:23).  The right collecting system is 
mildly dilated.  There is also mild dilatation of the proximal 
to mid ureter to the level of the mid pelvis (02:56).  However, 
no stones are seen in the ureters or the bladder.  There is no 
left-sided hydronephrosis.  There is no perinephric abnormality. 

  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber and wall thickness throughout.  
The colon and rectum are within normal limits. The appendix is 
normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
There are moderate to severe multilevel degenerative changes in 
the visualized 
thoracolumbar spine. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION:  
  
1.  Mild right-sided hydroureteronephrosis without evidence of 
stones.  The  mildly dilated right proximal to mid ureter can be 
traced to the mid pelvis.  While there may be a stricture at 
this level, evaluation is limited on this non contrast study.  
Of note, no stones are seen within the bladder to suggest a 
passed stone. 
2.  Minimally complex cyst in the left kidney.  Recommend follow 
up renal MRI in 6 months. 
  
RECOMMENDATION(S):  Renal MRI in 6 months. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
hypothyroidism, hyperlipidemia, osteoporosis who presents with 
gross hematuria and right flank pain with confusion, elevated 
lactate consistent with a complicated urinary tract infection. 

# Hematuria
# Complicated Urinary tract infection, Pyelonephritis
# Possible stone
It is unclear at this time if her hematuria followed by 
worsening flank pain is a stone that was passing and got stuck 
in a possible stricture as read on the CT (no clear stone, but 
possible stricture). Her renal function remains only mildly 
elevated which is reassuring. She may have concurrent infection 
with her lactate that was out of proportion to a simple stone 
and she also had AMS which is also concerning for possible 
infection > stone. We watched her overnight in setting of her 
worsening renal function (baseline 0.7 -> 0.9) and initial AMS 
and continued pain. She was given 2 L LR. She was treated with 
ceftriaxone and transitioned to cefpodoxime for presumed upper 
GU infection. PO antibiotics will continue 10 days after 
discharge. Her pain had largely resolved by discharge, but she 
did continue to have gross hematuria. It was felt this most 
likely represents infection. It is possible she is susceptible 
to infections w/ her vaginal dryness providing a nidus thus we 
recommended on going discussion with her PCP regarding vaginal 
estrogen. Additionally, if patient's hematuria gross or 
microscopic does not resolve in 6 weeks time she will need 
urology or nephrology.

# Thyroid nodule/hypothyroidism - > Noted as large on CXR, she 
should have repeat US if this has not been followed recently 
- Continued Synthroid 25mcg daily

# Osteoporosis
- Continued Calcium and Vitamin D

# Hyperlipidemia
- Continued simvastatin

# Hx of SCC
- No acute issues

# Migraine headache
- No headache currently
- Takes Butalbital/Acetaminophen/Caffeine (Fioricet) which
explains the positive barbiturate in urine tox

# B12 deficiency
- Takes B12 at home, continued 

TRANSITIONAL ISSUES:
====================
[] Please follow Cr to baseline (0.7), patient will benefit from 
repeat CBC as well
[] Please repeat UA in 6 weeks to ensure hematuria has cleared, 
would benefit from nephrology or urology ___ if it is still 
present
[] Consider additional vaginal estrogen to decrease atrophy and 
nidus for post-menopausal UTIs
[] Consider outpatient thyroid US to further characterize her 
nodule if not completed recently (reported as large by radiology 
on her CXR)
[] Patient w/ known left renal cyst, per radiology on her CT 
abdomen, recommended repeat MRI in 6 months time
 
#CONTACT: Husband ___, ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Acetaminophen-Caff-Butalbital 1 TAB PO Q8H:PRN Headache 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
5. vitamin C-multivitamin-mineral 500 mg oral DAILY 
6. biotin 1,000 mcg oral DAILY 
7. Cyanocobalamin 1000 mcg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 8 Days 
Please start on ___ 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth every 12 hours Disp 
#*16 Tablet Refills:*0 
3.  Acetaminophen-Caff-Butalbital 1 TAB PO Q8H:PRN Headache  
4.  biotin 1,000 mcg oral DAILY  
5.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Levothyroxine Sodium 25 mcg PO DAILY  
8.  Simvastatin 20 mg PO QPM  
9.  vitamin C-multivitamin-mineral 500 mg oral DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
- complicated urinary tract infection
- Possible urinary stricture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of right sided flank 
pain and blood in your urine that was concerning for a 
complicated urinary tract infection that may have involved your 
kidney. 

We treated you with IV antibiotics and fluids. You were feeling 
better by the time of discharge but were still having bloody 
urine. We still felt comfortable with you going home, but watch 
for concerning symptoms on your trip and please go to a hospital 
if you or your husband thinks you are "off". 

It was a pleasure taking care of you!

Your ___ Careteam! 
 
Followup Instructions:
___